US09126931B2
8-{2-(Tert-butyloxycarbonylaminosulfonyl)amino-ethoxy}-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Trifluoroacetic acid salt of 8-(2-amino-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A8-2, 20 mg, 0.044 mmol) was dissolved in pyridine (0.5 mL), added with N-(tert-butoxycarbonyl)-N-[4-(dimethyl azaniumylidene)-1,4-dihydropyridin-1-yl sulfonyl]azanide (13.5 mg, 1 eq.), and then stirred at room temperature for 14 hr. The reaction solution was added to water, and then extracted with ethyl acetate. After washing with saturated brine, the organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were separated by silica gel preparative TLC (ethyl acetate) to obtain the title compound (16.1 mg, 68%).

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 8-(2-amino-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.044 mmol, 20 mg | NCCOC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C21H19N3O2
reactant | N-(tert-butoxycarbonyl)-N-[4-(dimethyl azaniumylidene)-1,4-dihydropyridin-1-yl sulfonyl]azanide | 13.5 mg, 1 eq. | C(C)(C)(C)OC(=O)[N-]S(=O)(=O)N1C=CC(C=C1)=[N+](C)C | C12H19N3O4S
reactant | water | O | H2O
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 8-{2-(Tert-butyloxycarbonylaminosulfonyl)amino-ethoxy}-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 16.1 mg, 68% | C(C)(C)(C)OC(=O)NS(=O)(=O)NCCOC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C26H28N4O6S
